US09061013B2
3-fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid (2,2,2-trifluoro-ethyl)-amide
To a stirred solution of 3-Fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid (Preparation 6, 0.1 g, 0.195 mmol) in DMF (3 mL) was added HOBt (0.027 g, 0.195 mmol) and DIPEA (0.050 g, 0.391 mmol) followed by addition of EDCl.HCl (0.056 g, 0.292 mmol) and 2,2,2-trifluoro-ethylamine hydrochloride (0.026 g, 0.195 mmol) at 0° C. Resulting reaction mixture was stirred at room temperature for 16 hours under nitrogen atmosphere. After complete consumption of starting material, reaction mixture was quenched with water (50 mL) and extracted with EtOAc (3×20 mL). Combined organic layer was washed with saturated NaHCO3 (2×50 mL), dried over sodium sulphate and evaporated in vacuo to get 0.150 g crude. Crude was purified by column chromatography on silica gel (100-200 mesh size). Compound was eluted using 0.8% methanol in DCM to afford white solid (0.060 g, 52%). 1H-NMR (400 MHz, CDCl3) δ: 2.80-2.90 (m, 3H), 2.91-2.98 (m, 1H), 3.30-3.39 (m, 1H), 3.67 (d, 1H, J=17.16 Hz), 3.90-3.99 (m, 2H), 4.07 (d, 1H, J=17.16 Hz), 5.71 (bs, 1H), 7.53 (d, 2H, J=8.32 Hz), 7.64-7.67 (m, 4H); LC-MS (m/z): [M−H] 588.70.

reactant | 3-Fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid | 0.195 mmol, 0.1 g | FC1(CC(C1)C(=O)O)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H14Cl3F4NO3
reactant | HOBt | 0.195 mmol, 0.027 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.391 mmol, 0.050 g | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 0.292 mmol, 0.056 g | Cl | ClH
reactant | 2,2,2-trifluoro-ethylamine hydrochloride | 0.195 mmol, 0.026 g | Cl.FC(CN)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid (2,2,2-trifluoro-ethyl)-amide | 0.060 g, 52% | FC(CNC(=O)C1CC(C1)(C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)F)(F)F | C23H16Cl3F7N2O2
